US04859684
A mixture of 5 parts of 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine, 5 parts of ethyl 2-chlorobenzoate and 30 parts of polyphosphoric acid was stirred for 4 hours at 140° C. The whole was poured into 200 parts of water and crushed ice. The mixture was treated with ammonium hydroxide. The product was extracted three times with 120 parts of trichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography (HPLC) over silica gel using a mixture of trichloromethane, methanol and ammonium hydroxide (90:10:0.05 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanone and 1,1'-oxybisethane. The product was filtered off and dried in vacuo at 100° C., yielding 2.1 parts (26%) of 2-(2-chlorophenyl)-5-(1H-imidazol-1-ylmethyl)-1H-benzimidazole; mp. 115.2° C. (compound 88).

reactant | 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)N)N | C10H12N4
reactant | ethyl 2-chlorobenzoate | ClC1=C(C(=O)OCC)C=CC=C1 | C9H9ClO2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 2-(2-chlorophenyl)-5-(1H-imidazol-1-ylmethyl)-1H-benzimidazole | 26% | ClC1=C(C=CC=C1)C1=NC2=C(N1)C=CC(=C2)CN2C=NC=C2 | C17H13ClN4
